Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine Containing Agents Classifier / Nitroglycerin / Codeine / 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
fever, cough, and dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ man with history of recurrent stage IV NSCLC, currently 
C4D8 vinorelbine, presenting with shortness of breath and cough.

Mr. ___ was initially diagnosed with stage IA NSCLC, 
adenocarcinoma with squamous features, in ___ and underwent 
resection.  He was then diagnosed with a second stage IB NSCLC 
in ___ that was resected.  In ___ he was found to have 
recurrent metastatic disease and began therapy with vinorelbine 
in ___.  He was admitted to ___ in ___ with 
COPD exacerbation and at that time was started on Spiriva and 
Advair.  Despite this he has continued to have dyspnea on 
exertion and cough productive of white sputum since that time.  
He has received a flu vaccine this year.

He presented to the ED today after developing a fever to 102 at 
home and feeling more short of breath.  He reports being unable 
to sleep last night due to dyspnea and continues to have a cough 
productive of white sputum.  He also experienced some chest 
tightness this morning that has resolved.  His grandchildren, 
who live in the apartment upstairs from him, have been sick.  In 
the ED temperature 98.8 HR 78 BP 108/58 RR 24 O2 sat 97% 2Lnc.  
CT torso showed a new opacity in the right upper lung concerning 
for infection.  There were no abdominal abnormalities noted.  He 
was treated with levofloxacin and admitted.

Mr. ___ also complained of new right lower quadrant 
abdominal pain.  This pain is not associated with eating, 
nausea, diarrhea, constipation, or bloody stools, urinary 
retention or dysuria.  He also has experienced an intermittent 
bifrontal headache.  There is no photophobia, nausea, vision 
changes, or dizziness/lightheadedness.

ROS:
GEN:  +fevers, chills, night sweats
HEENT:  no vision changes, loss of hearing, dysphagia
CV:  +chest pain today
RESP:  +cough, +shortness of breath, + 2pillow orthopnea, no PND
GI:  +abdominal pain, no nausea, vomiting, diarrhea, 
constipation, heartburn, hematochezia, melana
GU:  no dysuria, hematuria, hesitancy, or change in frequency or 
nocturia
SKIN:  no rashes, lesions
NEURO: no weakness, paresthesias, numbness, +headaches - 
bifrontal, dizziness
MUSCULOSKELETAL:  +diffuse arthralgias and myalgias 

 
Past Medical History:
1.  NSCLC - as above
2.  COPD
3.  hypertension
4.  hypercholesterolemia
5.  gastritis
6.  pulmonary hypertension
7.  h/o colon polyps
8.  benign prostatic hypertrophy -?t/p ?TURP
9.  osteoarthrtisis
10. s/p bilateral knee replacements ___
11. s/p hernia repair
12. s/p thyroidectomy for what is reported as a Hurthle
cell carcinoma of the thyroid - ?___

 
Social History:
___
Family History:
No history of lung or other malignancy
Mother d. ___
Father d. at young age, killed in the army
Two brothers - one had asthma and has passed away.  The other 
had a benign lung mass removed.
 
Physical Exam:
T 98.9 HR 70  BP 114/64  RR 20  99%2Lnc
GEN:  alert and oriented x3, comfortable, no acute distress
HEENT:  PERRL, anicteric, conjunctiva pink, oropharynx without 
lesion or exudate, moist mucus membranes
LYMPH:  no anterior/posterior cervical, occipital, 
supraclavicular, or axillary adenopathy
CARDIOVASCULAR:  PMI nondisplaced, regular rate and rhythm 
without murmurs, rubs, or gallops
LUNGS:  bilateral wheezes and bibasilar crackles R > L, breath 
sounds throughout, no dullness or percussion
ABDOMEN:  obese, soft, nontender to palpation, distended with 
normal active bowel sounds.  no masses.  no hepatosplenomegaly 
by percussion or palpation, dilated superficial veins
EXTREMITIES:  no edema; venous stasis changes present
SKIN:  no rashes, petechia, lesions, or echymoses
NEURO:  A&Ox3, cranial nerves II-XII intact, strength ___ 
throughout grossly
 
Pertinent Results:
Labs on Admission:
___ 11:50AM BLOOD WBC-16.6* RBC-5.18 Hgb-15.2 Hct-45.1 
MCV-87 MCH-29.3 MCHC-33.6 RDW-14.9 Plt ___
___ 11:50AM BLOOD Neuts-82.8* Lymphs-12.7* Monos-3.6 
Eos-0.4 Baso-0.6
___ 11:50AM BLOOD Glucose-83 UreaN-15 Creat-1.1 Na-140 
K-4.4 Cl-102 HCO3-28 AnGap-14
___ 11:50AM BLOOD CK-MB-4 cTropnT-<0.01
___ 11:50AM BLOOD TSH-1.4
  
CXR ___: 
1. Increased opacity in the right upper lung, concerning for 
infection. 
2. Expected post-left upper lobectomy and right upper lobe wedge 
resection 
change. 
  
Chest, Abdomen, Pelvis CT ___:
1. No evidence of pulmonary embolus or dissection. 
2. New scattered opacities in the right upper lobe with 
peribronchial 
thickening concerning for infection. 
3. Stable hilar mass, mediastinal lymphadenopathy, and 
attenuation of the 
right upper lobe bronchus. 
4. Dilation of the right main pulmonary artery suggestive of 
pulmonary 
hypertension. 
5. No evidence of intra-abdominal or intra-pelvic metastatic 
disease. 
  
KUB ___:  Nonspecific bowel gas pattern.
 
Brief Hospital Course:
___ man with metastatic NSCLC, C4D8 vinorelbine, admitted with 
fever, cough, and dyspnea.  Hospital course by problem:
  
1. FEVER, COUGH, DYSPNEA:
Pt was diagnosed with pneumonia based on CXR and CT findings 
with new right upper lobe opacity and air bronchograms.  He was 
given Albuterol and Ipratropium inhalers and Levofloxacin 750mg 
PO q48 hours based on renal function.  He received a 5-day 
course of Levofloxacin for PNA while in the hospital.  Blood 
cultures were negative and sputum cultures were contaminated.  
His symptoms improved during this hospitalization.  He was 
discharged with an appointment for outpatient pulmonary rehab 
and an appointment with a pulmnologist.  He was discharged on 
home oxygen has his ambulatory oxygen saturation was < 88%.
  
2. CONSTIPATION:
Pt had a CT scan which showed no pathology for his abdominal 
pain.  He was constipated during this admission and KUB showed 
non-specific bowel gas pattern.  He was given a soap suds enema 
prior to discharge which was effective.  He was continued on 
colace and senna.
  
3. NSCLC:
CT of the chest showed stable disease.  He will follow-up with 
his primary oncologist for further treatment options.
  
4. HYPERTENSION: continued on Atenolol and Lisinopril
  
5. HYPERCHOLESTEROLEMIA: continued on Atorvastatin
  
6. HYPOTHYROID: continued on levothyroxine
 
Medications on Admission:
albuterol neb q4hours prn shortness of breath
atenolol 25mg daily
Lipitor 10mg daily
Celexa 20mg daily
Robitussin DM TID prn cough
Advair 250mcg-50mcg 1puff INH BID
Atrovent neb q6hour prn shortness of breath
Lasix 20mg daily
levothyroxine 100mcg daily
lisinopril 40mg daily
lorazepam 0.5mg BID prn anxiety
Zofran 8mg q8hr prn nausea
Compazine 10mg q8hr prn nausea
Spiriva 18mcg INH daily
Ambien ___ qhs prn sleeplessness
aspirin 81mg daily
Tylenol prn pain

 
Discharge Medications:
1. Oxygen
Home Oxygen @ 2LPM via nasal cannula conserving device for 
portability
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
9. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
10. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Dextromethorphan-Guaifenesin ___ mg/5 mL Syrup Sig: ___ 
MLs PO Q6H (every 6 hours) as needed for cough.  
12. Ipratropium Bromide 0.02 % Solution Sig: One (1) nebulizer 
Inhalation Q6H (every 6 hours).  
13. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
15. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
16. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO Q8H 
(every 8 hours) as needed.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. Community-Aquired Pneumonia
2. COPD
3. Non-Small Cell Lung Cancer
4. Constipation

Secondary Diagnoses:
5. Hypertension
6. Hypercholesterolemia
7. Hypothyroidism

 
Discharge Condition:
afebrile, hemodynamically stable, O2 saturation 98% on 2L NC

 
Discharge Instructions:
You were admitted to the hospital with shortness of breath and 
were found to have a pneumonia.  You were treated with 
antibiotics.  Your symptoms only slightly improved.  You also 
had some abdominal distention and were given medictions for your 
bowels.

You have already completed a course of antibiotics and do not 
need additional antibiotics.  You were discharged with a 
prescription for outpatient pulmonary rehab and an appointment 
to see a pulmonologist.

You should call your doctor or return to the hospital with any 
fevers > 100.4, chills, night sweats, worsening of your 
shortness of breath, nausea, vomiting, abdominal pain, 
constipation, leg swelling, skin rashes or any other symptoms 
that concern you.
 
Followup Instructions:
___